US04697005
a. 4-Fluoro-3-hydroxy-1(3H)-isobenzofuranone
To a -78° C. solution of the oxazoline derivative (7.8 g, 40.4 mmol), prepared from 3-fluorobenzoic acid in tne usual manner, in THF (50 mL) was added over 15 min sec-BuLi (29 mL of 1.4 M solution). After 30 min, DMF (6.3 mL) was added, and the reaction mixture was stirred at -78° C. for 2 hr. Tne reaction was then quenched with water (10 mL), and the mixture was acidified witn HCl and allowed to stir for 12 hr. The layers were separated, the aqueous layer was extracted with EtOAc, and the combined organic layer was concentrated in vacuo. Tnis material was dissolved in 5% KOH (50 mL), and the base layer was washed with Et2O (2×100 mL) to remove neutrals. The resulting base layer was added to 0° C. solution of concentrated HCl (25 mL), and the resulting cold acidic solution was extracted with EtOAc (3×75 mL). Workup and drying gave a tacky yellow solid (4.4 g) which was recrystallized from CHCl3 to give the title compound (1.97 g, 30%), mp 97°-100° C.

reactant | oxazoline | 40.4 mmol, 7.8 g | O1C=NCC1 | C3H5NO
reactant | 3-fluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
reactant | sec-BuLi | 1.4 M, 29 mL | [Li]C(C)CC
reactant | DMF | 6.3 mL | CN(C)C=O | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-Fluoro-3-hydroxy-1(3H)-isobenzofuranone | 4.4 g | FC1=C2C(OC(C2=CC=C1)=O)O | C8H5FO3
